US03957787
To 187.0 g of o-bromobenzyl alcohol at room temperature, with stirring, is added dropwise, 271.0 g of phosphorus tribromide. After the addition is complete, stirring is continued for three hours at room temperature. The mixture is then heated at 90°-100° for three hours and poured into 6 kg of crushed ice. The hydrolysis mixture is extracted with three 600 ml portions of ether, the ether extracts are washed, dried, and concentrated to give o-bromobenzyl bromide, bp. about 130°-132° (15mm).

reactant | o-bromobenzyl alcohol | 187.0 g | BrC1=C(CO)C=CC=C1 | C7H7BrO
reactant | phosphorus tribromide | 271.0 g | P(Br)(Br)Br | Br3P
product | o-bromobenzyl bromide | BrC1=C(CBr)C=CC=C1 | C7H6Br2
